US07205306B2
5-Chloro-1-(1-ethylpropyl)-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-(1-ethylpropyl)-2(1H)-pyrazinone and 5-methoxy-7-methylindoline hydrochloride as the starting materials. mp 164–165° C.; 1H NMR (300 MHz, CDCl3): δ 6.67 (s, 1 H), 6.66 (s, 1 H), 6.59 (d, J=2.2 Hz, 1 H), 4.82–4.80 (m, 1 H), 4.39 (t, J=7.9 Hz, 2 H), 3.79 (s, 3 H), 3.05 (t, J=7.7 Hz, 2 H), 2.06 (s, 3 H), 1.84–1.73 (m, 2 H), 1.70–1.59 (m, 2 H), 0.89 (t, J=7.3 Hz, 6 H); HRMS (ESI) calcd for C19H25N3O2Cl (M+H)+: 362.1635; found m/z 362.1648.

reactant | 3,5-dichloro-1-(1-ethylpropyl)-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)CC)=O | C9H12Cl2N2O
reactant | 5-methoxy-7-methylindoline hydrochloride | Cl.COC=1C=C2CCNC2=C(C1)C
product | 5-Chloro-1-(1-ethylpropyl)-3-(5-methoxy-7-methyl-2,3-dihydro-1H-indol-1-yl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CC)CC)=O)N1CCC2=CC(=CC(=C12)C)OC | C19H24ClN3O2
